US04235895
With stirring, 21.8 g (0.1 mole) of 10-cyano-5H-dibenz[b,f]azepine are added to a solution of 19.8 g (0.2 mole) of phosgene in 700 ml of absolute toluene. The mixture is then stirred for 30 hours at 50°-53° C. and subsequently completely concentrated in a rotary evaporator, affording as residue crude 10-cyano-5H-dibenz[b,f]azepine-5-carbonyl chloride with a melting point of 148°-153° C. With stirring, the crude product is dissolved at 70° C. in 600 ml of absolute ethanol. Ammonia gas is then introduced into this solution in the course of 2 hours while constantly keeping the reaction mixture under reflux. The reaction mixture is then concentrated in a rotary evaporator and the residue is washed and dried. Recrystallisation from toluene yields 10-cyano-5H-dibenz[b,f]azepine-5-carboxamide with a melting point of 212°-215° C.

reactant | 10-cyano-5H-dibenz[b,f]azepine | 0.1 mole, 21.8 g | C(#N)C1=CC2=C(NC3=C1C=CC=C3)C=CC=C2 | C15H10N2
reactant | phosgene | 0.2 mole, 19.8 g | C(=O)(Cl)Cl | CCl2O
reactant | Ammonia | N | H3N
solvent | toluene | 700 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 600 ml | C(C)O | C2H6O
product | 10-cyano-5H-dibenz[b,f]azepine-5-carboxamide | C(#N)C1=CC2=C(N(C3=C1C=CC=C3)C(=O)N)C=CC=C2 | C16H11N3O
